US05366982
A mixture of 4.7 g of 3,5-diphenyl-anisole and 5.3 g of pyridinium hydrochloride was heated for 5 hours to 185° C. After cooling, the residue was partitioned between 100 cc of diethyl ether and 120 cc of water. The organic layer wes then washed with water, dried (Na2SO4) and evaporated. The resultant residue was suspended in 50 cc of n-hexane and filtered to give 3.75 g (85%) of 3,5-diphenyl-phenol as a white solid. (m.p.=97° C.)

reactant | 3,5-diphenyl-anisole | 4.7 g | C1(=CC=CC=C1)C=1C=C(C=C(C1)C1=CC=CC=C1)OC | C19H16O
reactant | pyridinium hydrochloride | 5.3 g | Cl.[NH+]1=CC=CC=C1
product | 3,5-diphenyl-phenol | 3.75 g, 85% | C1(=CC=CC=C1)C=1C=C(C=C(C1)C1=CC=CC=C1)O | C18H14O
